.title kicad schematic

.include 54LS374_sub.sub
* u3 clk plot_v1
* u4 d oc clk net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
* u14 net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ 3q 2q dout dac_bridge_3
r2 2q gnd 1k
r3 3q gnd 1k
* u19 dout plot_v1
* u25 net-_u25-pad1_ net-_u25-pad2_ net-_u25-pad3_ net-_u25-pad4_ net-_u25-pad5_ 8q 7q 6q 5q 4q dac_bridge_5
r1 dout gnd 1k
r4 4q gnd 1k
r6 6q gnd 1k
r5 5q gnd 1k
r8 8q gnd 1k
r7 7q gnd 1k
x1 net-_u4-pad5_ net-_u14-pad3_ net-_u4-pad4_ net-_u4-pad4_ net-_u14-pad2_ net-_u14-pad1_ net-_u4-pad4_ net-_u4-pad4_ net-_u25-pad5_ unconnected-_x1-pad10_ net-_u4-pad6_ net-_u25-pad4_ net-_u4-pad4_ net-_u4-pad4_ net-_u25-pad3_ net-_u25-pad2_ net-_u4-pad4_ net-_u4-pad4_ net-_u25-pad1_ unconnected-_x1-pad20_ 54LS374_sub
* u1 d plot_v1
* u2 oc plot_v1
v2 oc gnd pulse(0v 5v 0 1ps 1ps 40ms 80ms)
v3 clk gnd pulse(0v 5v 0 1ps 1ps 5ms 10ms)
v1 d gnd pulse(0v 5v 0 1ps 1ps 12ms 25ms)
a1 [d oc clk ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
a2 [net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ ] [3q 2q dout ] u14
a3 [net-_u25-pad1_ net-_u25-pad2_ net-_u25-pad3_ net-_u25-pad4_ net-_u25-pad5_ ] [8q 7q 6q 5q 4q ] u25
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, Ngspice Name: dac_bridge
.model u14 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, Ngspice Name: dac_bridge
.model u25 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(dout)
plot v(d)
plot v(oc)
.endc
.end
